US08604055B2
Synthesis of 3-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-3H-indole-2-carboxylic acid diethylamide
To the solution of 3-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-1H-indole-2-carboxylic acid ethyl ester (0.2 g, 0.38 mmol) in 5 mL ethanol, was added NaOH (0.076 g, 1.9 mmol). The reaction was refluxed under nitrogen atm for 1 h. The reaction mixture was acidified and the suspension was filtered to afford the title compound (0.1 g, 53%)

reactant | 3-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-1H-indole-2-carboxylic acid ethyl ester | 0.38 mmol, 0.2 g | C(C)OC(=O)C=1NC2=CC=CC=C2C1CN(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C23H20F6N6O2
reactant | NaOH | 1.9 mmol, 0.076 g | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-3H-indole-2-carboxylic acid diethylamide | 0.1 g, 53% | C(C)N(C(=O)C1=NC2=CC=CC=C2C1CN(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C25H25F6N7O
